US08084448B2
F. (S)-2-Acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic Acid
A solution of (S)-2-acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid tert-butyl ester (100 mg) in TFA/methylene chloride (1:1) is stirred at RT for 20 min. The solvent is removed under reduced pressure to give the title compound.

reactant | (S)-2-acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)NC(C)=O)=O | C24H29N3O7S
solvent | TFA methylene chloride | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-2-Acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionic Acid | C(C)(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1 | C20H21N3O7S
